US04273713
Following a procedure similar to that described in Example 13C, 17.48 g. (0.06 mole) of 2-phenyl-3-formyl-2,4,5,6-tetrahydro-1,4,6,6-tetrmethylcyclopenta[c]pyrrole-4-carbonitrile was oxidized with 18.9 g. (0.12 mole) of potassium permanganate in 120 ml. of pyridine and 90 ml. of water to give 4.03 g. of 2-phenyl-3-carboxy-2,4,5,6-tetrahydro-1,4,6,6tetramethylcyclopenta[c]pyrrole-4-carbonitrile which was esterified by reaction of 9.83 g. (0.032 mole) of the acid with 1.713 g. (0.035 mole) of a 50% mineral oil dispersion of sodium hydride followed by 2.23 ml. (0.036 mole) of methyl iodide. There was thus obtained 4.18 of 2-phenyl-3-carbomethoxy-2,4,5,6-tetrahydro-1,4,6,6-tetramethylcyclopenta[c]pyrrole-4-carbonitrile.

reactant | 2-phenyl-3-formyl-2,4,5,6-tetrahydro-1,4,6,6-tetrmethylcyclopenta[c]pyrrole-4-carbonitrile | 0.06 mole | C1(=CC=CC=C1)N1C(=C2C(=C1C=O)C(CC2(C)C)(C#N)C)C | C19H20N2O
reactant | potassium permanganate | 0.12 mole | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | 2-phenyl-3-carboxy-2,4,5,6-tetrahydro-1,4,6,6tetramethylcyclopenta[c]pyrrole-4-carbonitrile | C1(=CC=CC=C1)N1C(=C2C(=C1C(=O)O)C(CC2(C)C)(C#N)C)C | C19H20N2O2
reactant | sodium hydride | [H-].[Na+]
reactant | methyl iodide | 0.036 mole | CI | CH3I
solvent | water | O | H2O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-phenyl-3-carbomethoxy-2,4,5,6-tetrahydro-1,4,6,6-tetramethylcyclopenta[c]pyrrole-4-carbonitrile | C1(=CC=CC=C1)N1C(=C2C(=C1C(=O)OC)C(CC2(C)C)(C#N)C)C | C20H22N2O2
